US04444766
2.3 g. Sodium are dissolved by warming in 44 ml. butane-1,4-diol, 38 ml. 1-bromotridecane are added thereto and the reaction mixture is stirred for 5 hours at a bath temperature of 150° C. After cooling, extraction is carried out with a mixture of diethyl ether-ligroin (1:2 v/v), the extract is evaporated and the residue is purified on a silica gel column by elution with ligroin which is subsequently replaced by diethyl ether-ligroin (1:1 v/v). The desired fractions are collected and evaporated. 19.4 g. (71% of theory) of thin layer chromatographically uniform 4-tridecyloxybutanol are thus obtained; m.p. 26°-29° C.

reactant | Sodium | [Na] | Na
reactant | butane-1,4-diol | C(CCCO)O | C4H10O2
reactant | 1-bromotridecane | BrCCCCCCCCCCCCC | C13H27Br
product | 4-tridecyloxybutanol | C(CCCCCCCCCCCC)OCCCCO | C17H36O2
